US05721230
A stirred solution of 3.0 g (9.57 mmol) of tert.butyl[1(R or S)-(6,7,8,9-tetrahydropyrido[1,2-a]indol-8(R or S)-yl)ethyl]carbamate in 150 ml of dichloromethane was treated dropwise at 0° C. with 1.28 g (10.3 mmol) of oxalyl chloride. After 5 minutes, the solvent was removed under reduced pressure and the residue was dissolved in 150 ml of dichloromethane and treated with 2.94 g (11 mmol) of isopropyl 1-methyl-3-indoleacetimidate hydrochloride and 4.38 g (43 mmol) of triethylamine at 0° C. under nitrogen. After warming to room temperature, the solution was stirred for 24 hours, washed with water and dried over magnesium sulfate. The solvent was removed by evaporation and the residue was dissolved in 30 ml of pyridine. The resulting solution was cooled to ice bath temperature and treated dropwise with 1.5 ml (10.8 mmol) of trifluoroacetic anhydride. After 15 minutes, the solvent was removed under reduced pressure and the residue was partitioned between 200 ml of ethyl acetate and 200 ml of 0.2M hydrochloric acid. The organic layer was washed with 50 ml of sodium bicarbonate solution, dried over magnesium sulfate and evaporated to dryness. The residue was purified by flash chromatography on silica gel using ethyl acetate/petroleum ether (1:2) for the elution to give 1.35 g of 3-[8(R or S)-[1(R or S)-tert.butoxyformamidoethyl]-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione (diastereomer A) in the form of a red solid of melting point 255°-7° C. Further elution gave 1.38 g of diastereomer B as a red solid of melting point 230°-233° C.

reactant | carbamate | C(N)([O-])=O
reactant | oxalyl chloride | 10.3 mmol, 1.28 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | isopropyl 1-methyl-3-indoleacetimidate hydrochloride | 11 mmol, 2.94 g | Cl.CN1C=C(C2=CC=CC=C12)CC(OC(C)C)=N
reactant | triethylamine | 43 mmol, 4.38 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 10.8 mmol, 1.5 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione | CN1C=C(C2=CC=CC=C12)C1=CC(NC1=O)=O | C13H10N2O2
